US07109186B2
Compound 74: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (2-chloro-4-fluoro-benzyl)-methoxy-amide
N-(2-Chloro-4-fluorobenzyl)-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-acetamide, prepared using the methods described in the previous examples, was treated in methanol with paraformaldehyde and methylamine as described in the preparation of Compound 44, Method 44B, to give the title compound as white crystals (55% yield); mp 152–155° C. 1HNMR 400 MHz (CDCl3) δ (ppm): 3.11 (3H, s, NCH3), 3.75 (3H, s, OCH3), 4.17 (2H, s, NCH2), 5.01 (2H, s, NCH2), 6.99 (1H, m, aromatic), 7.15 (1H, dd, J=2.5 Hz, J=8.0 Hz, aromatic), 7.36 (1H, dd, J=5.7 Hz, J=8.8 Hz, aromatic). Anal. calcd for C14H14ClFN2O4: C, 51.15; H, 4.29; N, 8.52. Found: C, 50.62; H, 4.18; N, 8.40.

reactant | N-(2-Chloro-4-fluorobenzyl)-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-acetamide | ClC1=C(CN(C(C=C2OC(OC2=O)(C)C)=O)OC)C=CC(=C1)F | C15H15ClFNO5
reactant | paraformaldehyde | C=O | CH2O
reactant | methylamine | CN | CH5N
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (2-chloro-4-fluoro-benzyl)-methoxy-amide | 55% yield | ClC1=C(CN(C(=O)C=2CN(C(C2O)=O)C)OC)C=CC(=C1)F | C14H14ClFN2O4
